Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Depakote
 
Attending: ___.
 
Chief Complaint:
sent from PCP with lab abnormalities (hyponatremia & ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ (given name ___ is a ___ transitioning 
trans-female with a history of migraines, HTN, HLD, and 
depression who is sent from PCP office with findings ___ and 
hyponatremia after presenting with malaise and vomiting. Patient 
was in usual state of health until the day prior to admission w/ 
general malaise, mild headache, one episode of nausea with 
vomiting (non-bloody non-bilious). Of note, patient recently had 
spironolactone increased to 100mg bid, which she is taking for 
transition from male to female.

In the ED, labs were notable for Na 128, Cr 1.8 (baseline 1.0), 
K 4.7, WBC 14.1. Received 1L NS. 

 
Past Medical History:
Currently transitioning male to female on hormonal supplements
HTN, HLD
Depression, anxiety, insomnia, migraines
 
Social History:
___
Family History:
- Mother: Died age ___ of lung cancer
- Father: Does not know
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital signs: T 98.8, BP 148/104, P 98, RR 18, O2 93% RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no 
increased work of breathing
GI: soft, non-tender, non-distended. No hepatosplenomegaly 
appreciated.
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE PHYSICAL
Vitals: 99.1F, HR 99, BP 127/75, RR 18, SpO2 96%
General: no acute distress, lying comfortably in bed
HEENT: moist mucus membranes, PERRL
Cardio: RRR, no murmur
Pulm: clear b/l, no wheeze
Abdomen: soft, nontender, nondistended, bowel sounds present
Extremities: no pedal edema
Neuro: no focal neurological deficits, AAOx3
 
Pertinent Results:
___ 06:18PM BLOOD WBC-14.1* RBC-5.32 Hgb-15.8 Hct-45.4 
MCV-85 MCH-29.7 MCHC-34.8 RDW-13.8 RDWSD-42.5 Plt ___

___ 05:25PM BLOOD WBC-7.7 RBC-5.53 Hgb-16.2 Hct-46.5 MCV-84 
MCH-29.3 MCHC-34.8 RDW-13.2 RDWSD-41.1 Plt ___

___ 06:18PM BLOOD Glucose-130* UreaN-33* Creat-1.8* Na-128* 
K-4.7 Cl-89* HCO3-23 AnGap-21*

___ 07:55AM BLOOD Glucose-111* UreaN-17 Creat-1.1 Na-136 
K-4.9 Cl-94* HCO3-26 AnGap-21*

___ 04:29PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-POSITIVE *

CXR: no acute cardiopulmonary process
 
Brief Hospital Course:
___ (given name ___ is a ___ year old trans-female 
with a history of migraines, HTN, HLD, and depression who is 
sent from PCP office with findings ___ and hyponatremia after 
presenting with malaise and vomiting.

1. ___ w/ hyponatremia and hyperkalemia
Patient initially presented with ___ and hyponatremia thought to 
be due to increased dose of spironolactone.  Urine studies were 
somewhat conflicting: elevated sodium and osm suggesting SIADH, 
FeNa 0.2% suggesting prerenal, and FeUrea (patient on 
spironolactone) 43.5% suggesting intrinsic renal disease.  She 
appears to be euvolemic, which is more consistent with intrinsic 
renal disease or SIADH.  Initially
sodium worsened with NS and improved with fluid restriction, and 
creatinine improved with fluids and then stabilized with fluid 
restriction.  Suspect that influenza may also have contributed 
to abnormalities.  At time of discharge sodium normalized and 
creatinine at baseline; she received one dose of kayexylate with 
correction of potassium.  At discharge resumed lisinopril but 
will continue to hold spironolactone.  Patient has an 
appointment with PCP ___ where BMP will be repeated and 
discussion of resuming spironolactone had.  

2. Sepsis due to Influenza B
SIRS (fever, tachycardia) with influenza B.  Patient started on 
Tamiflu the evening of ___ and will continue 75mg PO BID for 
total of 5 days.  

3. Transgender
Patient currently transitioning from male to female on hormonal 
therapy: estradiol patch and spironolactone.  Incidentally she 
had a testicular torsion some yeas ago and is s/p removal of 
affected testis.  At this point will hold spironolactone.  
Informed PCP of admission and holding of spironolactone with 
plans for close follow up ___ and discussion on whether to 
resume this in setting of ___.  Patient 
mentioned discussion of removal of remaining testicle, which she 
can discuss further with PCP. 

Chronic Medical Problems
1. HLD: continue simvastatin
2. Insomnia: continue trazodone 
3. HTN: lisinopril and spironolactone held in setting of ___.  
Plan to resume lisinopril at discharge and hold spironolactone. 

>30 minutes spent on discharge planning 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO QHS 
2. Spironolactone 100 mg PO BID 
3. Lisinopril 20 mg PO QHS 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. melatonin 3 mg oral QHS:PRN insomnia 
6. Sumatriptan Succinate 50 mg PO ONCE:PRN migraine 
7. Simvastatin 40 mg PO QPM 
8. Estradiol Transdermal Patch (estradiol) 0.1 mg/24 hr 
transdermal weekly 
9. Naproxen 500 mg PO Q12H:PRN Pain - Mild 

 
Discharge Medications:
1.  OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*8 
Capsule Refills:*0 
2.  Aspirin 81 mg PO QHS  
3.  Estradiol Transdermal Patch (estradiol) 0.1 mg/24 hr 
transdermal weekly  
4.  Lisinopril 20 mg PO QHS  
5.  melatonin 3 mg oral QHS:PRN insomnia  
6.  Naproxen 500 mg PO Q12H:PRN Pain - Mild  
7.  Simvastatin 40 mg PO QPM  
8.  Sumatriptan Succinate 50 mg PO ONCE:PRN migraine  
9.  TraZODone 50 mg PO QHS:PRN insomnia  
10. HELD- Spironolactone 100 mg PO BID  This medication was 
held. Do not restart Spironolactone until you discuss restarting 
this with your PCP. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia, hyperkalemia, ___
Influenza B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were initially admitted for lab abnormalities (low salt and 
kidney injury) that may have been from the increased dose of 
spironolactone.  While here you were found to have the flu, 
which may have also contributed to these abnormalities.  You 
will take Tamiflu for 5 days but should no longer be contagious. 
 Please follow up with your PCP ___ to check your labs and 
discuss restarting spironolactone. 
 
Followup Instructions:
___